US05998436
Synthesis of ethyl 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 3 ml chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 0.78 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 2-amino-3,5-difluoro-6-methoxypyridine until completion of the conversion into the aminoacrylate form was confirmed by monitoring the reaction by TLC. The solution was concentrated under reduced pressure, and to the residue were added 0.80 g of anhydrous potassium carbonate and 2 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 15 minutes and allowed to cool. The solution was separated by adding 30 ml of chloroform and 300 ml of distilled water, and the chloroform layer was washed twice with 300 ml of distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was collected by filtration, washed with ethanol to obtain 615 mg of the title compound as a pale brown powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 0.78 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-3,5-difluoro-6-methoxypyridine | NC1=NC(=C(C=C1F)F)OC | C6H6F2N2O
reactant | aminoacrylate | NC(C(=O)[O-])=C
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 615 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)OC)C(=O)OCC)=O)F)F | C18H11ClF4N2O4
